US07074809B2
The reaction was carried out as described in Example 43 from 3-[5-(3-methyl-piperidin-2-yl)-[1,2,4]oxadiazol-3-yl]-benzonitrile (29 mg, 0.108 mmol) with pyridine-2-carbaldehyde (13.9 mg, 0.13 mmol) and sodium triacetoxyborohydride (34.3 mg, 0.162 mmol) in dichloroethane (2 mL) to give cis-3-[5-(3-Methyl-1-pyridin-2-ylmethyl-piperidin-2-yl)-[1,2,4]oxadiazol-3-yl]-benzonitrile (20 mg, 51.5%); 1H NMR (CDCl3), δ(ppm): 8.55 (d,1H), 8.45 (s, 1H), 8.38 (d, 1H), 7.80 (d,1H), 7.65 (m, 2H), 7.41 (d, 1H), 7.18(m, 1H), 4.40 (d, 1H), 3.76 (d, 1H), 3.53 (d, 1H), 3.03 (m,1H), 2.68 (m,1H), 2.30 (m, 1H), 1.74(m, 4H), 0.82 (d, 3H); and trans-3-[5-(3-methyl-1-pyridin-2-ylmethyl-piperidin-2-yl)-[1,2,4]oxadiazol-3-yl]-benzonitrile (5 mg, 12.9%); 1H NMR (CDCl3), δ(ppm): 8.49+ (d,1H), 8.43 (s, 1H), 8.35 (d, 1H), 7.80 (d,1H), 7.65 (m, 2H), 7.55 (d, 1H), 7.14(m, 1H), 3.59 (m, 3H), 3.03 (m, 1H), 2.25 (m, 2H), 1.92 (m,1H), 1.73 (m, 2H), 1.27(m, 1H), 0.87 (d, 3H).

reactant | 3-[5-(3-methyl-piperidin-2-yl)-[1,2,4]oxadiazol-3-yl]-benzonitrile | 0.108 mmol, 29 mg | CC1C(NCCC1)C1=NC(=NO1)C=1C=C(C#N)C=CC1 | C15H16N4O
reactant | pyridine-2-carbaldehyde | 0.13 mmol, 13.9 mg | N1=C(C=CC=C1)C=O | C6H5NO
reactant | sodium triacetoxyborohydride | 0.162 mmol, 34.3 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | cis-3-[5-(3-Methyl-1-pyridin-2-ylmethyl-piperidin-2-yl)-[1,2,4]oxadiazol-3-yl]-benzonitrile | 20 mg, 51.5% | C[C@@H]1[C@@H](N(CCC1)CC1=NC=CC=C1)C1=NC(=NO1)C=1C=C(C#N)C=CC1 | C21H21N5O
